US04093739
An aqueous solution of 10% sodium hydroxide (7.5 ml., 0.01875 mole) is slowly added to a mixture of N-[3-(mercaptoacetylamino)benzoyl]glycine (5 g., 0.0186 mole) and 5 mg. of disodium edetate in 60 ml. of tetrahydrofuran with cooling at ice water temperature. The mixture stirred and equilibrated to room temperature first provides a complete solution and subsequently a solid precipitate which is stirred for an additional 0.5 hr. and filtered. The collected solid is washed with three 20 ml. portions of tetrahydrofuran and then dried under vacuum over calcium chloride to provide 4 g. (66% yield) of N-[3-(mercaptoacetylamino)benzoyl]-glycine sodium salt dihydrate, m.p. 108°-136.0° C. (dec.).

reactant | sodium hydroxide | 0.01875 mole, 7.5 ml | [OH-].[Na+]
reactant | N-[3-(mercaptoacetylamino)benzoyl]glycine | 0.0186 mole, 5 g | SCC(=O)NC=1C=C(C(=O)NCC(=O)O)C=CC1 | C11H12N2O4S
reactant | disodium edetate | C(N(CC(=O)[O-])CC(=O)O)CN(CC(=O)O)CC(=O)[O-].[Na+].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-[3-(mercaptoacetylamino)benzoyl]-glycine sodium salt dihydrate | 66% yield | O.O.[Na+].SCC(=O)NC=1C=C(C(=O)NCC(=O)[O-])C=CC1 | InChI=1S/C11H12N2O4S.Na.2H2O/c14-9(6-18)13-8-3-1-2-7(4-8)11(17)12-5-10(15)16;;;/h1-4,18H,5-6H2,(H,12,17)(H,13,14)(H,15,16);;2*1H2/q;+1;;/p-1
